US04409018
2-(4-Chloro-2-fluorophenyl)-3-hydroxy-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one
In 400 ml of ethanol was dissolved 40.0 g of 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1,3-dione, and 2.4 g of sodium borohydride was added to the solution with stirring over a 30-minute period, while cooling was effected suitably to maintain the reaction temperature at 20° to 30° C. After stirring was continued at room temperature for one hour, the reaction mixture was neutralized with dilute acetic acid and concentrated to about one third of the original volume. Upon cooling, there resulted crystals, which were collected by filtration, washed with water and dried, thereby affording 36.2 g (yield of 90%) of the subject compound. Recrystallization from ethyl acetate yielded white crystals, m.p. 178°-179° C.

reactant | 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1,3-dione | 40.0 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1=O)=O)F | C14H11ClFNO2
reactant | sodium borohydride | 2.4 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-(4-Chloro-2-fluorophenyl)-3-hydroxy-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | 36.2 g, yield of 90% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1O)=O)F | C14H13ClFNO2
